US07495014B2
5-Bromo-1,3-difluoro-2-nitro-benzene:
To a suspension of sodium perborate tetrahydrate (1.04 g, 5 mmol) in acetic acid (20 mL), stirred at 55° C., was added a solution of 4-bromo-2,6-difluoroaniline in acetic acid (10 mL) over 1 hour in a dropwise fashion. After stirring at 55° C. for an additional 3 hours, the solution was allowed to cool to room temperature and filtered. The filtrate was poured into ice, and extracted twice with ethyl acetate. The combined organic extracts were washed successively with 5×100-mL portions of water, brine, dried (MgSO4), and concentrated in vacuo. The resulting residue was purified by column chromatography over silica gel eluted with ethyl acetate:hexanes (1:20) to afford 780 mg of the title compound as a tan solid. 1H NMR (CDCl3) δ 7.32 (dt, 2H).

reactant | sodium perborate tetrahydrate | 5 mmol, 1.04 g | B1(OO1)[O-].O.O.O.O.[Na+]
reactant | 4-bromo-2,6-difluoroaniline | BrC1=CC(=C(N)C(=C1)F)F | C6H4BrF2N
solvent | acetic acid | 20 mL | C(C)(=O)O | C2H4O2
solvent | acetic acid | 10 mL | C(C)(=O)O | C2H4O2
product | 5-Bromo-1,3-difluoro-2-nitro-benzene | 780 mg | BrC=1C=C(C(=C(C1)F)[N+](=O)[O-])F | C6H2BrF2NO2
